### PR TITLE
[Merged by Bors] - chore: deal with "`simp` doesn't apply `simp` lemma unless parenthesized" porting notes

### LINKED ISSUE #12717: Porting note: `simp` doesn't apply `simp` lemma unless parenthesized

### PR DESCRIPTION
**Pull request by YaelDillies**
In this proof, we abuse the definition of `Matrix` by applying matrices. This is why we needed to parenthesize `Fintype.sum_apply` to convince `simp` to apply it even though the type is `Matrix m n α`, not `m → _`.

Turns out there's a version of `Fintype.sum_apply` specialized to matrices: `Matrix.sum_apply`.

Close #12717

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basis.lean [hunk 1]
```diff
@@ -68,16 +68,14 @@ theorem mulVec_stdBasisMatrix [NonUnitalNonAssocSemiring α] [Fintype m]
   · simp
   simp [h, h.symm]
 
+-- In the following proof, we abuse the definition of `Matrix` by applying matrices.
```
Comment (jcommelin) [inline Mathlib/Data/Matrix/Basis.lean:71]: Is that abuse? Isn't that how matrices are designed to be used?

Comment (YaelDillies) [reply Mathlib/Data/Matrix/Basis.lean:71]: It is abuse to the extent that `Matrix m n α` is not synteq to `m → n → α`. So simp doesn't fire lemmas about `m → n → α` on a subexpression of type `Matrix m n α`. This is precisely what's happening below.

In fact, I am surprised to see that `Matrix` doesn't have a `FunLike` instance. That would seem li

**Comment by j-loreaux** [comment]
Thanks!

bors merge

File: Mathlib/Data/Matrix/Basis.lean [hunk 2]
```diff
@@ -68,16 +68,14 @@ theorem mulVec_stdBasisMatrix [NonUnitalNonAssocSemiring α] [Fintype m]
...
-  iterate 2 rw [Finset.sum_apply]
-  convert (Fintype.sum_eq_single i ?_).trans ?_; swap
-  · -- Porting note(#12717): `simp` seems unwilling to apply `Fintype.sum_apply`
-    simp (config := { unfoldPartialApp := true }) [stdBasisMatrix, (Fintype.sum_apply)]
-  · intro j' hj'
-    -- Porting note(#12717): `simp` seems unwilling to apply `Fintype.sum_apply`
-    simp (config := { unfoldPartialApp := true }) [stdBasisMatrix, (Fintype.sum_apply), hj']
+  ext i j
+  rw [← Fintype.sum_prod_type']
+  simp [stdBasisMatrix, (Fintype.sum_apply), Matrix.of_apply, ← Prod.mk.inj_iff]
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:78]: I think the comment should stay next to the tactic in question, not next to the proof.

File: Mathlib/Data/Matrix/Basis.lean [hunk 3]
```diff
@@ -70,14 +70,12 @@ theorem mulVec_stdBasisMatrix [NonUnitalNonAssocSemiring α] [Fintype m]
...
-  iterate 2 rw [Finset.sum_apply]
-  convert (Fintype.sum_eq_single i ?_).trans ?_; swap
-  · -- Porting note(#12717): `simp` seems unwilling to apply `Fintype.sum_apply`
-    simp (config := { unfoldPartialApp := true }) [stdBasisMatrix, (Fintype.sum_apply)]
-  · intro j' hj'
-    -- Porting note(#12717): `simp` seems unwilling to apply `Fintype.sum_apply`
-    simp (config := { unfoldPartialApp := true }) [stdBasisMatrix, (Fintype.sum_apply), hj']
+  ext i j
+  rw [← Fintype.sum_prod_type']
+  -- In this proof, we abuse the definition of `Matrix` by applying matrices.
```
Comment (eric-wieser) [inline Mathlib/Data/Matrix/Basis.lean:75]: This is not abuse of `Matrix`, this is how it is intended to be used. Of course, it might be abuse of Lean itself... (vs using a one-field structure).

I think the motivation applies to the existence of `Matrix.add_apply` etc too; but it's interesting that somehow the `(some_lemma)` syntax makes things work.

Comment (YaelDillies) [reply Mathlib/Data/Matrix/Basis.lean:75]: What do you want me to write, concretely?

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean:75]: I think what I actually want you to write `Matrix.sum_apply`, and use that lemma here instead of `Fintype.sum_apply`.

Comment (YaelDillies) [reply Mathlib/Data/Matrix/Basis.lean]: I was hoping for a better fix, but okay

Comment (eric-wieser) [reply Mathlib/Data/Matrix/Basis.lean]: > I was hoping for a better fix, but okay

You could extend the comments around `Matrix.add_apply` etc if you want to push for that.

**Comment by YaelDillies** [comment]
FYI this actually passes CI. @adomani explained that the CI error is caused to a script version differing between branches

**Comment by eric-wieser** [comment]
bors merge

Thanks!
